US09422307B2
7-(3-aminophenyl)-N2-(3,4,5-trimethoxyphenyl)thieno[3,2-d]pyrimidin-2,4-diamine
7-(3-Nitrophenyl)-N2-(3,4,5-trimethoxyphenyl)thieno[3,2-d]pyrimidin-2,4-diamine (400 mg, 0.88 mmol) was dissolved in ethanol (3.0 mL) and tin(II) chloride dihydrate (996 mg, 4.41 mmol) was added. The reaction mixture was stirred at 80° C. for 2 hours. After removing ethanol by distillation under reduced pressure, ammonia water was slowly added to make pH 5. Sodium carbonate was added to thus prepared yellow precipitate until the pH reached 7. The precipitate was filtered and washed several times with ethyl acetate. Concentration of the filtrate yielded the target compound of Example 11 (320 mg, 85% yield).

reactant | 7-(3-Nitrophenyl)-N2-(3,4,5-trimethoxyphenyl)thieno[3,2-d]pyrimidin-2,4-diamine | 0.88 mmol, 400 mg | [N+](=O)([O-])C=1C=C(C=CC1)C1=CSC2=C1N=C(N=C2N)NC2=CC(=C(C(=C2)OC)OC)OC | C21H19N5O5S
reactant | tin(II) chloride dihydrate | 4.41 mmol, 996 mg | O.O.[Sn](Cl)Cl
solvent | ethanol | 3.0 mL | C(C)O | C2H6O
product | 7-(3-aminophenyl)-N2-(3,4,5-trimethoxyphenyl)thieno[3,2-d]pyrimidin-2,4-diamine | 320 mg, 85% yield | NC=1C=C(C=CC1)C1=CSC2=C1N=C(N=C2N)NC2=CC(=C(C(=C2)OC)OC)OC | C21H21N5O3S
